US07094908B2
(1) Methyl 2-(phthalimido)methyl-3-oxobutanoate
Methyl 3-tetrahydropyrrolyl-2-butenoate (29.0 g, 171.3 mmol) and N-(bromomethyl)phthalimide (43 g, 179.91 mmol) were dissolved in 250 ml of dimethylformamide, and the resulting mixture was then stirred at room temperature for 16 hours under a nitrogen atmosphere. After checking completion of the reaction with TLC, 1N HCl and water were added into the reaction mixture. The produced solid was filtered under a reduced pressure while washing with hexane and then recrystallized in 100% ethanol, thereby to obtain the desired product (32.26 g, 68%).

reactant | Methyl 3-tetrahydropyrrolyl-2-butenoate | 171.3 mmol, 29.0 g | N1C(CCC1)C(=CC(=O)OC)C | C9H15NO2
reactant | N-(bromomethyl)phthalimide | 179.91 mmol, 43 g | BrCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6BrNO2
reactant | HCl | 1N | Cl | ClH
reactant | water | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(phthalimido)methyl-3-oxobutanoate | 32.26 g, 68% | C1(C=2C(C(N1CC(C(=O)OC)C(C)=O)=O)=CC=CC2)=O | C14H13NO5
